US06127386
203b. 5-Acetoxy-3-ethenyl-2-fluoropyridine
To a stirred solution of the 5-amino-2-fluoro-3-ethenylpyridine from a above (3.00 g, 21.7 mmol) in 3:1 DME:CH2Cl2 (50 mL) at -10° C. was slowly added borontrifluoride etherate (5.60 mL, 45.6 mmol). t-Butylnitrite (3.10 mL, 26.0 mmol) was added over the course of 15 min, keeping the reaction temperature below -5° C. The reaction mixture was warmed to 0° C. and stirred for 30 min. Pentane (500 mL) was added and the solid tetrafluoroborate diazonium salt was collected by filtration. The diazonium salt was dissolved in acetic anhydride (40 mL) and heated at 95° C. for 2 h--N2 evolution was noted at 85° C. The solvent was evaporated, the residue was dissolved in Et2O (250 mL), and washed with saturated, aqueous NaHCO3 (2×150 mL). The combined aqueous phases were extracted with Et2O (2×150 mL). The combined organic phases were washed with brine (50 mL), dried (MgSO4), and concentrated. The crude product was purified by column chromatography (silica gel; EtOAc/hexane, 4:6) to afford the desired product as a yellow oil (1.51 g, 40%): 1H NMR (CDCl3, 300 MHz) δ 2.35 (s, 3H), 5.54 (d, J=11.0 Hz, 1H), 5.90 (d, J=18.0 Hz, 2H), 6.75 (m, 1H), 7.66 (dd, J=2.0, 5.0 Hz, 1H); MS (CI/NH3) m/z 182 (M+H)+, 199 (M+NH4)+.

reactant | 5-amino-2-fluoro-3-ethenylpyridine | NC=1C=C(C(=NC1)F)C=C | C7H7FN2
reactant | DME | COCCOC | C4H10O2
reactant | borontrifluoride etherate | 45.6 mmol, 5.60 mL | B(F)(F)F.CCOCC
reactant | t-Butylnitrite | 26.0 mmol, 3.10 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | Pentane | 500 mL | CCCCC | C5H12
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Acetoxy-3-ethenyl-2-fluoropyridine | 1.51 g, 40% | C(C)(=O)OC=1C=C(C(=NC1)F)C=C | C9H8FNO2
